US06498154B1
3-Fluoro-5-(2,2,4,4-tetramethyl-1,4dihydro-2H-3,1-benzoxazin-6-yl)benzonitrile
Prepared using the coupling procedure for Example 13 starting with 6-bromo-2,2,4,4-tetramethyl-1,4-dihydro-2H-3,1-benzoxazine and 3-bromo-5-fluorobenzonitrile. A white solid: 1H-NMR (DMSO-d6) δ 8.03 (s, 1H), 7.87 (d, 1H, J=10.7 Hz), 7.65 (d, 1H, J=10.7 Hz), 7.57 (d, 1H, J=1.98 Hz) 7.45 (dd, 1H, J=8.33, 1.98 Hz), 6.65 (d, 1H, J=8.33 Hz), 6.42 (s, 1H), 1.52 (s, 6H), 1.34 (s, 6H); MS (ES) m/z 311 ([M+H]+).

reactant | 6-bromo-2,2,4,4-tetramethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)(C)C)(C)C)C1 | C12H16BrNO
reactant | 3-bromo-5-fluorobenzonitrile | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
product | 3-Fluoro-5-(2,2,4,4-tetramethyl-1,4dihydro-2H-3,1-benzoxazin-6-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)C=1C=CC2=C(C(OC(N2)(C)C)(C)C)C1 | C19H19FN2O
